US08580824B2
To a solution of 3-ethyl-4-hydroxy-5-methyl-benzaldehyde (78.8 g, 0.48 mol) in DMSO (585 mL), a solution of NaH2PO4 dihydrate (17.3 g, 0.144 mol) in water (160 mL) is added over a period of 13 min. The mixture is stirred at rt an a solution of NaClO2 (65.17 g, 0.577 mol) in water (160 mL) is added while the mixture is cooled with an ice-bath. The mixture is stirred for 1 h before a second portion of NaClO2 (43.44 g, 0.480 mol) in water (100 mL) is added while the temperature is kept between 25 and 40° C. with an ice-bath. The yellow suspension is stirred at rt for 24 h before it is acidified with 32% aq. HCl to pH 2-3. The mixture is extracted with TBME (250 mL), the org. extract is washed with water, and the washings are extracted back with TBME. The solvent of the combined org. extracts is evaporated to give crude 3-ethyl-4-hydroxy-5-methyl-benzoic acid (80.3 g) as a yellow solid.

reactant | 3-ethyl-4-hydroxy-5-methyl-benzaldehyde | 0.48 mol, 78.8 g | C(C)C=1C=C(C=O)C=C(C1O)C | C10H12O2
reactant | NaClO2 | 0.577 mol, 65.17 g | [O-]Cl=O.[Na+]
reactant | NaClO2 | 0.480 mol, 43.44 g | [O-]Cl=O.[Na+]
reactant | HCl | Cl | ClH
solvent | DMSO | 585 mL | CS(=O)C | C2H6OS
solvent | water | 160 mL | O | H2O
solvent | water | 160 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 3-ethyl-4-hydroxy-5-methyl-benzoic acid | 80.3 g | C(C)C=1C=C(C(=O)O)C=C(C1O)C | C10H12O3
